US07129232B2
To a suspension of 3-[N-(tert-butoxycarbonyl)-N-methylamino]propanoic acid (3.33 g) in dichloromethane (33 ml) and tetrahydrofuran (33 ml) were added HOBT (3.33 g) and WSC HCl (6.29 g), and the mixture was stirred for 1 hour. To the solution were added 1-methyl-1H-pyrazole-4,5-diamine sulfate (3.45 g) and N,N-diisopropylethylamine (11.4 ml). The reaction mixture was stirred at room temperature overnight. To the resulting solution was added brine and extracted with tetrahydrofuran/ethyl acetate=1/1. The extract was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give tert-butyl N-{3-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-3-oxopropyl}-N-methylcarbamate as an oil (2.4 g). This product was used in the next step without further purification.

reactant | 3-[N-(tert-butoxycarbonyl)-N-methylamino]propanoic acid | 3.33 g | C(C)(C)(C)OC(=O)N(C)CCC(=O)O | C9H17NO4
reactant | HOBT | 3.33 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC HCl | 6.29 g | CCN=C=NCCCN(C)C.Cl
reactant | 1-methyl-1H-pyrazole-4,5-diamine sulfate | 3.45 g | S(=O)(=O)(O)O.CN1N=CC(=C1N)N
reactant | N,N-diisopropylethylamine | 11.4 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 33 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | tert-butyl N-{3-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-3-oxopropyl}-N-methylcarbamate | 2.4 g | NC1=C(C=NN1C)NC(CCN(C(OC(C)(C)C)=O)C)=O | C13H23N5O3
